US08809333B2
To a solution of ethyl 2-methyl-2-(methylsulfonyl)-4-(4-phenyl-1H-imidazol-1-yl)butanoate (335 mg, 0.956 mmol, 1 eq) in THF/MeOH/Water (4:1:1) was added lithium hydroxide monohydrate (160 mg, 3.82 mmol, 4 eq) and the mixture was allowed to stir at RT overnight. The reaction was diluted with 1 N HCl and loaded onto a 6 g MCX column. The column was washed with 1 column volume water and 2 column volumes MeOH. The washes were discarded. The column was then eluted with 0.5 N NH3 in Methanol. The eluant was concentrated to give 2-methyl-2-(methylsulfonyl)-4-(4-phenyl-1H-imidazol-1-yl)butanoic acid (304 mg, 98% yield). LC-MS M+H+323.4.

reactant | ethyl 2-methyl-2-(methylsulfonyl)-4-(4-phenyl-1H-imidazol-1-yl)butanoate | 0.956 mmol, 335 mg, 1 eq | CC(C(=O)OCC)(CCN1C=NC(=C1)C1=CC=CC=C1)S(=O)(=O)C | C17H22N2O4S
reactant | lithium hydroxide monohydrate | 3.82 mmol, 160 mg, 4 eq | O.[OH-].[Li+]
solvent | THF MeOH Water | C1CCOC1.CO.O
solvent | HCl | 1 N | Cl | ClH
product | 2-methyl-2-(methylsulfonyl)-4-(4-phenyl-1H-imidazol-1-yl)butanoic acid | 304 mg, 98% yield | CC(C(=O)O)(CCN1C=NC(=C1)C1=CC=CC=C1)S(=O)(=O)C | C15H18N2O4S
